US09403839B2
4-tert-Butoxy-3-methoxybenzaldehyde (130 mg, 0.62 mmol) was suspended in a mixture of dioxane (520 μL) and potassium hydroxide (6.5 mL of 0.20 M, 1.3 mmol). KMnO4 (150 mg, 0.93 mmol) was added and the reaction was stirred vigorously for 16 h. The reaction mixture was filtered and then concentrated to 3 mL. Hydrochloric acid (1M, 4 mL) was added and the resulting precipitate was filtered (after standing for 15 minutes) and washed with 1M HCl and a small amount of water to yield 4-tert-butoxy-3-methoxy-benzoic acid (68 mg, 49%) as a white solid. Rf=0.23 (SiO2, 40% ethyl acetate in hexanes); ESI-MS m/z calc. 224.1, found 225.2 (M+1)+. Retention time: 1.66 minutes (3 min run). 1H NMR (400 MHz, DMSO) δ 12.80 (s, 1H), 7.66-7.41 (m, 2H), 7.09 (d, J=8.8 Hz, 1H), 3.78 (s, 3H), 1.32 (s, 9H).

reactant | 4-tert-Butoxy-3-methoxybenzaldehyde | 0.62 mmol, 130 mg | C(C)(C)(C)OC1=C(C=C(C=O)C=C1)OC | C12H16O3
reactant | potassium hydroxide | 1.3 mmol, 0.20 M, 6.5 mL | [OH-].[K+]
reactant | KMnO4 | 0.93 mmol, 150 mg | [O-][Mn](=O)(=O)=O.[K+]
solvent | dioxane | 520 μL | O1CCOCC1 | C4H8O2
product | 4-tert-butoxy-3-methoxy-benzoic acid | 68 mg, 49% | C(C)(C)(C)OC1=C(C=C(C(=O)O)C=C1)OC | C12H16O4
